US07427610B2
290 mg of 2-(1-methoxyethyl)-3-benzyloxy-17β-methoxy-estra-1,3,5(10)-triene was dissolved in 20 ml each of ethyl acetate and dichloromethane and then mixed with 3 drops of acetic acid and 110 mg of palladium on activated carbon (10%). The hydrogenation was carried out under normal pressure over 8 hours. The catalyst was filtered out, and the solution was concentrated by evaporation in a rotary evaporator and co-evaporated several times with toluene. Flash chromatography (toluene/acetone=80:1) yielded 220 mg (98%) of 2-ethyl-3-hydroxy-17β-methoxy-estra-1,3,5(10)-triene as a colorless foam.

reactant | 2-(1-methoxyethyl)-3-benzyloxy-17β-methoxy-estra-1,3,5(10)-triene | 290 mg | COC(C)C=1C(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C1)OC)OCC1=CC=CC=C1 | C29H38O3
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
catalyst | palladium on activated carbon | 110 mg | [Pd] | Pd
product | 2-ethyl-3-hydroxy-17β-methoxy-estra-1,3,5(10)-triene | 220 mg, 98% | C(C)C=1C(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C1)OC)O | C21H30O2
